US08420863B2
Reduction of 3-(3-bromophenyl)-3-hydroxypropanenitrile following thre method used in Example 50 gave 3-amino-1-(3-bromophenyl)propan-1-ol as a light green oil. Yield (2.30 g, 84%.) This material was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.49 (m, 1H), 7.37 (dt, J=7.2, 1.6 Hz, 1H), 7.23-7.31 (m, 2H), 4.66 (t, J=6.8 Hz, 1H), 2.61 (m, 2H), 1.61 (q, J=6.8 Hz, 2H).

reactant | 3-(3-bromophenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=CC1)C(CC#N)O | C9H8BrNO
reactant | thre | C[C@H]([C@@H](C(=O)O)N)O | C4H9NO3
product | 3-amino-1-(3-bromophenyl)propan-1-ol | NCCC(O)C1=CC(=CC=C1)Br | C9H12BrNO
